* File: G3_DFFQ1_N3.pex.netlist.pex
* Created: Wed Apr  6 11:25:19 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_DFFQ1_N3_VSS 2 4 6 8 10 12 14 29 42 44 49 55 59 64 67 72 78 83 88
+ 93 102 111 117 126 127 128 129 133 138 143 149 155 157 162 164 166 167 168 Vss
c101 168 Vss 4.28045e-19
c102 167 Vss 3.75522e-19
c103 166 Vss 3.75522e-19
c104 165 Vss 6.20041e-19
c105 164 Vss 0.00614697f
c106 162 Vss 0.00220014f
c107 157 Vss 0.0014078f
c108 155 Vss 0.00256807f
c109 149 Vss 0.00450029f
c110 143 Vss 0.00309494f
c111 133 Vss 0.00200475f
c112 129 Vss 6.50617e-19
c113 128 Vss 8.16747e-19
c114 127 Vss 0.00572724f
c115 126 Vss 0.0020774f
c116 117 Vss 0.00492488f
c117 111 Vss 0.00403629f
c118 102 Vss 0.00419844f
c119 93 Vss 2.01624e-19
c120 88 Vss 9.8978e-19
c121 83 Vss 8.45647e-19
c122 78 Vss 0.00151704f
c123 72 Vss 0.0130885f
c124 67 Vss 0.00136241f
c125 64 Vss 0.0111802f
c126 59 Vss 0.00964026f
c127 55 Vss 0.00801889f
c128 49 Vss 0.0568987f
c129 44 Vss 0.0568992f
c130 42 Vss 8.92801e-20
c131 29 Vss 0.0356247f
c132 28 Vss 0.101312f
c133 14 Vss 0.189842f
c134 8 Vss 0.191315f
c135 6 Vss 0.188337f
c136 4 Vss 0.188444f
r137 163 168 0.551426
r138 163 164 18.3386
r139 162 168 0.551426
r140 161 162 5.54325
r141 157 168 0.0828784
r142 156 167 0.494161
r143 155 164 0.652036
r144 155 156 4.37625
r145 151 167 0.128424
r146 150 166 0.494161
r147 149 161 0.652036
r148 149 150 10.1279
r149 145 166 0.128424
r150 144 165 0.494161
r151 143 167 0.494161
r152 143 144 7.46046
r153 139 165 0.128424
r154 133 165 0.494161
r155 133 138 1.00029
r156 127 166 0.494161
r157 127 128 15.8795
r158 126 129 0.655813
r159 125 128 0.652036
r160 125 126 5.54325
r161 111 114 0.05
r162 93 157 1.82344
r163 88 117 1.16709
r164 88 151 2.16729
r165 83 114 1.16709
r166 83 145 2.20896
r167 78 139 6.16843
r168 75 138 1.29204
r169 72 102 1.16709
r170 72 75 15.5878
r171 67 129 1.82344
r172 64 93 1.16709
r173 59 78 1.16709
r174 55 67 1.16709
r175 49 117 0.197068
r176 46 49 1.2837
r177 42 111 0.197068
r178 42 44 1.2837
r179 38 46 0.0685365
r180 35 44 0.0685365
r181 31 102 0.0476429
r182 29 31 1.45875
r183 28 32 0.652036
r184 28 31 1.45875
r185 25 29 0.652036
r186 14 38 5.1348
r187 12 64 0.123773
r188 10 59 0.123773
r189 8 35 5.1348
r190 6 32 5.1348
r191 4 25 5.1348
r192 2 55 0.123773
.ends

.subckt PM_G3_DFFQ1_N3_CK 2 4 6 8 18 21 25 35 41 Vss
c33 41 Vss 0.00492267f
c34 35 Vss 3.25681e-19
c35 33 Vss 0.0299314f
c36 25 Vss 0.166167f
c37 21 Vss 8.92801e-20
c38 18 Vss 0.18663f
c39 15 Vss 0.180502f
c40 13 Vss 0.0247918f
c41 6 Vss 0.659388f
c42 4 Vss 0.191169f
r43 41 44 0.05
r44 38 44 1.16709
r45 35 38 0.0416786
r46 26 33 0.494161
r47 25 27 0.652036
r48 25 26 4.84305
r49 22 33 0.128424
r50 21 41 0.0238214
r51 19 21 0.326018
r52 19 21 0.1167
r53 18 33 0.494161
r54 18 21 6.7686
r55 15 41 0.357321
r56 13 21 0.326018
r57 13 15 0.3501
r58 6 8 17.9718
r59 6 27 5.1348
r60 4 22 5.1348
r61 2 15 4.7847
.ends

.subckt PM_G3_DFFQ1_N3_VDD 2 4 6 8 10 12 14 28 42 44 49 56 60 63 64 65 70 72 76
+ 78 79 82 84 86 91 93 95 96 98 99 100 102 104 113 118 Vss
c107 118 Vss 0.00533757f
c108 113 Vss 0.00573314f
c109 104 Vss 0.00489453f
c110 100 Vss 4.52364e-19
c111 99 Vss 2.39889e-19
c112 98 Vss 4.43992e-19
c113 96 Vss 0.00375805f
c114 95 Vss 4.90076e-19
c115 93 Vss 0.00385631f
c116 91 Vss 0.0108071f
c117 86 Vss 0.00177107f
c118 84 Vss 0.0031515f
c119 82 Vss 0.00100814f
c120 79 Vss 4.90412e-19
c121 78 Vss 0.00546064f
c122 76 Vss 6.46297e-19
c123 72 Vss 0.00354521f
c124 70 Vss 0.00226527f
c125 67 Vss 0.00183337f
c126 65 Vss 8.65196e-19
c127 64 Vss 0.00754197f
c128 63 Vss 0.00697044f
c129 60 Vss 0.0112146f
c130 56 Vss 0.0070753f
c131 49 Vss 0.0589116f
c132 44 Vss 0.0581535f
c133 42 Vss 7.85965e-20
c134 29 Vss 0.0372509f
c135 28 Vss 0.101007f
c136 12 Vss 0.191734f
c137 10 Vss 0.189852f
c138 8 Vss 0.00143493f
c139 4 Vss 0.190684f
c140 2 Vss 0.189513f
r141 118 121 0.05
r142 95 104 1.16709
r143 95 96 0.470345
r144 93 102 0.326018
r145 92 100 0.551426
r146 92 93 5.50157
r147 91 100 0.551426
r148 90 91 18.3803
r149 86 100 0.0828784
r150 86 88 1.82344
r151 85 99 0.494161
r152 84 90 0.652036
r153 84 85 4.37625
r154 82 121 1.16709
r155 80 99 0.128424
r156 80 82 2.20896
r157 78 102 0.326018
r158 78 79 10.1279
r159 76 113 1.16709
r160 74 79 0.652036
r161 74 76 2.16729
r162 73 98 0.494161
r163 72 99 0.494161
r164 72 73 7.46046
r165 68 98 0.128424
r166 68 70 6.21011
r167 67 96 3.82922
r168 64 98 0.494161
r169 64 65 13.0037
r170 63 67 0.655813
r171 62 65 0.652036
r172 62 63 10.2113
r173 60 88 1.16709
r174 56 70 1.16709
r175 49 118 0.197068
r176 46 49 1.2837
r177 42 113 0.197068
r178 42 44 1.2837
r179 38 46 0.0685365
r180 35 44 0.0685365
r181 31 104 0.0476429
r182 29 31 1.45875
r183 28 32 0.652036
r184 28 31 1.45875
r185 25 29 0.652036
r186 14 60 0.123773
r187 12 38 5.1348
r188 10 35 5.1348
r189 8 56 0.123773
r190 6 56 0.123773
r191 4 25 5.1348
r192 2 32 5.1348
.ends

.subckt PM_G3_DFFQ1_N3_CKN 2 4 6 8 18 25 28 33 50 Vss
c37 51 Vss 0.00128789f
c38 50 Vss 0.00701318f
c39 33 Vss 3.33899e-19
c40 28 Vss 0.00179767f
c41 25 Vss 0.00520172f
c42 18 Vss 7.22113e-19
c43 6 Vss 0.584002f
c44 4 Vss 0.00143493f
r45 50 51 14.6709
r46 46 51 0.652036
r47 33 50 0.531835
r48 28 46 5.835
r49 25 28 1.16709
r50 18 33 1.16709
r51 8 18 8.9859
r52 6 18 8.9859
r53 4 25 0.123773
r54 2 25 0.123773
.ends

.subckt PM_G3_DFFQ1_N3_D 2 4 11 12 22 25 28 Vss
c24 28 Vss 0.00196994f
c25 25 Vss 4.67436e-19
c26 12 Vss 0.214507f
c27 11 Vss 8.44702e-20
c28 7 Vss 0.0247918f
c29 4 Vss 0.191884f
c30 2 Vss 0.180391f
r31 25 28 1.16709
r32 22 25 0.0364688
r33 15 28 0.0476429
r34 13 15 0.326018
r35 13 15 0.1167
r36 12 16 0.652036
r37 12 15 6.7686
r38 11 28 0.357321
r39 7 15 0.326018
r40 7 11 0.40845
r41 4 16 5.1348
r42 2 11 4.72635
.ends

.subckt PM_G3_DFFQ1_N3_X 2 4 6 8 17 20 23 33 35 39 41 47 Vss
c46 47 Vss 0.00165819f
c47 41 Vss 5.1586e-19
c48 39 Vss 0.00126373f
c49 35 Vss 0.00198822f
c50 33 Vss 0.00525025f
c51 23 Vss 7.81442e-20
c52 20 Vss 0.214848f
c53 17 Vss 0.180344f
c54 15 Vss 0.0247918f
c55 8 Vss 0.191809f
c56 6 Vss 0.00143493f
r57 44 47 1.16709
r58 41 44 2.08393
r59 37 39 6.16843
r60 36 41 0.0685365
r61 35 37 0.652036
r62 35 36 1.70882
r63 33 39 1.16709
r64 23 47 0.0476429
r65 21 23 0.326018
r66 21 23 0.1167
r67 20 24 0.652036
r68 20 23 6.7686
r69 17 47 0.357321
r70 15 23 0.326018
r71 15 17 0.40845
r72 8 24 5.1348
r73 6 33 0.123773
r74 4 17 4.72635
r75 2 33 0.123773
.ends

.subckt PM_G3_DFFQ1_N3_Q 2 4 13 16 Vss
c12 16 Vss 3.46649e-19
c13 13 Vss 0.0045421f
c14 4 Vss 0.00143493f
r15 16 19 0.0416786
r16 13 19 1.16709
r17 4 13 0.123773
r18 2 13 0.123773
.ends

