************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_DFFQ1_N3
* View Name:     schematic
* Netlisted on:  Apr  6 11:25:12 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_DFFQ1_N3
* View Name:    schematic
************************************************************************

.SUBCKT G3_DFFQ1_N3 CK D Q Vdd Vss
*.PININFO CK:I D:I Q:O Vdd:B Vss:B
XI13 X Vss D CK Vdd / TIGFET_PCELL_SP15CP15_N2
XI12 X Vdd D CKN Vss / TIGFET_PCELL_SP15CP15_N2
XI4 Q Vdd X CK Vss / TIGFET_PCELL_SP15CP15_N2
XI5 Q Vss X CKN Vdd / TIGFET_PCELL_SP15CP15_N2
XI1 CKN Vss CK Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI0 CKN Vdd CK Vdd Vss / TIGFET_PCELL_SP15CP15_N2
.ENDS

