* File: G1_INV1_N1.pex.netlist.pex
* Created: Fri Feb 18 12:29:10 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G1_INV1_N1_VDD 2 5 15 28 30 34 37 43 Vss
c23 43 Vss 0.00628299f
c24 34 Vss 7.87399e-19
c25 30 Vss 0.00507852f
c26 28 Vss 0.00249774f
c27 26 Vss 0.00167323f
c28 15 Vss 0.0355813f
c29 14 Vss 0.102384f
c30 5 Vss 0.164813f
c31 2 Vss 0.00212755f
r32 34 43 1.16709
r33 32 34 2.45904
r34 31 37 0.326018
r35 30 32 0.652036
r36 30 31 7.41879
r37 26 37 0.326018
r38 26 28 5.08479
r39 17 43 0.214393
r40 15 17 1.4004
r41 14 18 0.652036
r42 14 17 1.5171
r43 11 15 0.652036
r44 5 18 2.5674
r45 5 11 2.5674
r46 2 28 1.16709
.ends

.subckt PM_G1_INV1_N1_A 2 4 9 12 22 25 28 Vss
c8 28 Vss 0.00718398f
c9 12 Vss 0.227852f
c10 9 Vss 0.0715834f
c11 7 Vss 0.0247918f
c12 4 Vss 0.0847975f
r13 25 28 1.16709
r14 22 25 0.0530455
r15 15 28 0.0476429
r16 13 15 0.326018
r17 13 15 0.1167
r18 12 16 0.652036
r19 12 15 6.7686
r20 9 28 0.357321
r21 7 15 0.326018
r22 7 9 0.40845
r23 4 16 2.5674
r24 2 9 2.15895
.ends

.subckt PM_G1_INV1_N1_VSS 3 6 14 27 32 37 49 50 56 Vss
c26 51 Vss 0.00126572f
c27 50 Vss 6.56738e-19
c28 49 Vss 0.00355297f
c29 37 Vss 0.0039192f
c30 32 Vss 0.00204286f
c31 27 Vss 6.63162e-19
c32 15 Vss 0.0358722f
c33 14 Vss 0.0994269f
c34 6 Vss 0.00276734f
c35 3 Vss 0.163777f
r36 51 56 0.326018
r37 49 56 0.326018
r38 49 50 7.46046
r39 45 50 0.652036
r40 32 51 5.08479
r41 27 37 1.16709
r42 27 45 2.41736
r43 17 37 0.238214
r44 15 17 1.45875
r45 14 18 0.652036
r46 14 17 1.45875
r47 11 15 0.652036
r48 6 32 1.16709
r49 3 18 2.5674
r50 3 11 2.5674
.ends

.subckt PM_G1_INV1_N1_Z 2 16 Vss
c11 2 Vss 0.00148239f
r12 16 19 0.125036
r13 2 19 1.16709
.ends

