* File: G1_INV1_N2.pex.netlist.pex
* Created: Fri Feb 25 16:24:20 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G1_INV1_N2_VDD 2 5 15 23 28 30 34 37 43 Vss
c22 43 Vss 0.00440656f
c23 34 Vss 7.98732e-19
c24 30 Vss 0.00489873f
c25 28 Vss 0.00252866f
c26 26 Vss 0.00167653f
c27 23 Vss 0.00387287f
c28 15 Vss 0.035607f
c29 14 Vss 0.102409f
c30 5 Vss 0.271444f
r31 34 43 1.16709
r32 32 34 2.41736
r33 31 37 0.326018
r34 30 32 0.652036
r35 30 31 7.46046
r36 26 37 0.326018
r37 26 28 5.50157
r38 23 28 1.16709
r39 17 43 0.0476429
r40 15 17 1.45875
r41 14 18 0.652036
r42 14 17 1.45875
r43 11 15 0.652036
r44 5 18 3.8511
r45 5 11 3.8511
r46 2 23 0.185659
.ends

.subckt PM_G1_INV1_N2_A 2 4 12 22 25 28 Vss
c7 28 Vss 0.00718398f
c8 12 Vss 0.22585f
c9 9 Vss 0.126125f
c10 7 Vss 0.0247918f
c11 4 Vss 0.139046f
r12 22 28 1.16709
r13 22 25 0.0416786
r14 15 28 0.0476429
r15 13 15 0.326018
r16 13 15 0.1167
r17 12 16 0.652036
r18 12 15 6.7686
r19 9 28 0.357321
r20 7 15 0.326018
r21 7 9 0.40845
r22 4 16 3.8511
r23 2 9 3.44265
.ends

.subckt PM_G1_INV1_N2_VSS 3 6 14 24 27 32 37 49 50 56 Vss
c24 51 Vss 0.0012655f
c25 50 Vss 6.56963e-19
c26 49 Vss 0.00353949f
c27 37 Vss 0.00375421f
c28 32 Vss 0.00198022f
c29 27 Vss 2.9624e-19
c30 24 Vss 0.00537236f
c31 15 Vss 0.0358979f
c32 14 Vss 0.0994171f
c33 3 Vss 0.270557f
r34 51 56 0.326018
r35 49 56 0.326018
r36 49 50 7.46046
r37 45 50 0.652036
r38 32 51 5.50157
r39 27 37 1.16709
r40 27 45 2.41736
r41 24 32 1.16709
r42 17 37 0.0476429
r43 15 17 1.45875
r44 14 18 0.652036
r45 14 17 1.45875
r46 11 15 0.652036
r47 6 24 0.185659
r48 3 18 3.8511
r49 3 11 3.8511
.ends

.subckt PM_G1_INV1_N2_Z 2 4 13 16 Vss
c11 13 Vss 0.00523231f
c12 4 Vss 0.00143442f
r13 16 19 0.0416786
r14 13 19 1.16709
r15 4 13 0.185659
r16 2 13 0.185659
.ends

