* File: G1_INV1_N3.pex.netlist.pex
* Created: Fri Feb 25 16:26:51 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G1_INV1_N3_VDD 2 5 15 23 28 30 34 37 43 Vss
c22 43 Vss 0.00440656f
c23 34 Vss 7.98732e-19
c24 30 Vss 0.00491201f
c25 28 Vss 0.0026398f
c26 26 Vss 0.00168274f
c27 23 Vss 0.00814922f
c28 15 Vss 0.0356247f
c29 14 Vss 0.102427f
c30 5 Vss 0.382574f
r31 34 43 1.16709
r32 32 34 2.41736
r33 31 37 0.326018
r34 30 32 0.652036
r35 30 31 7.46046
r36 26 37 0.326018
r37 26 28 6.4185
r38 23 28 1.16709
r39 17 43 0.0476429
r40 15 17 1.45875
r41 14 18 0.652036
r42 14 17 1.45875
r43 11 15 0.652036
r44 5 18 5.1348
r45 5 11 5.1348
r46 2 23 0.123773
.ends

.subckt PM_G1_INV1_N3_A 2 4 12 24 27 Vss
c6 27 Vss 0.00733896f
c7 24 Vss 1.81646e-19
c8 12 Vss 0.229828f
c9 9 Vss 0.180667f
c10 7 Vss 0.0247918f
c11 4 Vss 0.193588f
r12 24 27 1.16709
r13 15 27 0.0476429
r14 13 15 0.326018
r15 13 15 0.1167
r16 12 16 0.652036
r17 12 15 6.7686
r18 9 27 0.357321
r19 7 15 0.326018
r20 7 9 0.40845
r21 4 16 5.1348
r22 2 9 4.72635
.ends

.subckt PM_G1_INV1_N3_VSS 3 6 14 24 27 32 37 49 50 56 Vss
c23 51 Vss 0.0012698f
c24 50 Vss 6.56512e-19
c25 49 Vss 0.00353949f
c26 37 Vss 0.00390919f
c27 32 Vss 0.00198602f
c28 27 Vss 8.43451e-19
c29 24 Vss 0.0100686f
c30 15 Vss 0.0359156f
c31 14 Vss 0.0994171f
c32 3 Vss 0.381612f
r33 51 56 0.326018
r34 49 56 0.326018
r35 49 50 7.46046
r36 45 50 0.652036
r37 32 51 6.4185
r38 27 37 1.16709
r39 27 45 2.41736
r40 24 32 1.16709
r41 17 37 0.0476429
r42 15 17 1.45875
r43 14 18 0.652036
r44 14 17 1.45875
r45 11 15 0.652036
r46 6 24 0.123773
r47 3 18 5.1348
r48 3 11 5.1348
.ends

.subckt PM_G1_INV1_N3_Z 2 4 13 19 Vss
c11 13 Vss 0.00499164f
c12 4 Vss 0.00143493f
r13 16 19 0.0364688
r14 13 16 1.16709
r15 4 13 0.123773
r16 2 13 0.123773
.ends

