************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_LATQ1_N1
* View Name:     schematic
* Netlisted on:  Apr  5 11:42:19 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_LATQ1_N1
* View Name:    schematic
************************************************************************

.SUBCKT G3_LATQ1_N1 D G Q Vdd Vss
*.PININFO D:I G:I Q:O Vdd:B Vss:B
XI5 QN Vdd D G Vss / TIGFET_PCELL_SP15CP15_N1
XI4 QN Vss D GN Vdd / TIGFET_PCELL_SP15CP15_N1
XI3 Q Vss QN Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI0 Q Vdd QN Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI2 GN Vss G Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI1 GN Vdd G Vdd Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

